US07884101B2
Preparation of N-{3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-[2-((S)-3-fluoro-pyrrolidin-1-yl)-ethoxy]-phenyl}-3-fluoro-benzamide (Compound 475)
A mixture of 3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-[2-((S)-3-fluoro-pyrrolidin-1-yl)-ethoxy]-phenylamine (76 mg, 0.2 mmol), 3-fluorobenzoyl chloride (32 mg, 0.22 mmol), triethylamine (0.3 mL) in THF (2 mL) was stirred at r.t. for 20 min. The solvent was concentrated in vacuo and the crude was purified by HPLC to give the title compound (40 mg, 40%) as a yellow solid as TFA salt. 1H NMR (DMSO-d6, 400 MHz) δ 1.98-2.10 (m, 2H), 2.90-3.45 (m, 6H), 3.68 (s, 3H), 4.28-4.30 (m, 1H), 4.39-4.42 (m, 1H), 5.28-5.42 (m, 1H), 7.28-7.31 (m, 1H), 7.44-7.49 (m, 1H), 7.57-7.63 (m, 1H), 7.67 (d, 1H), 7.73-7.82 (m, 3H), 7.94 (dd, 1H), 10.4 (s, 2H). Exact mass calculated for C23H23BrF2N4O2 504.1. found 505.5/507.5 (MH+).

reactant | 3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-[2-((S)-3-fluoro-pyrrolidin-1-yl)-ethoxy]-phenylamine | 0.2 mmol, 76 mg | BrC1=C(N(N=C1)C)C=1C=C(C=CC1OCCN1C[C@H](CC1)F)N | C16H20BrFN4O
reactant | 3-fluorobenzoyl chloride | 0.22 mmol, 32 mg | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-{3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-[2-((S)-3-fluoro-pyrrolidin-1-yl)-ethoxy]-phenyl}-3-fluoro-benzamide | 40 mg, 40% | BrC1=C(N(N=C1)C)C=1C=C(C=CC1OCCN1C[C@H](CC1)F)NC(C1=CC(=CC=C1)F)=O | C23H23BrF2N4O2
